US04892872
A mixture of 5.1 g of methyl 6-chloro-3,4-dihydro-2,4-dimethyl-3-oxo-2H-1,4-benzoxazine-8-carboxylate, 20 ml of ethanol and 50 ml of 4% aqueous potassium hydroxide solution is refluxed with heating for 5 hours. The resultant solution is cooled and 350 ml of water is added thereto followed by filtration. The filtrate is made acid with concentrated hydrochloric acid. The precipitated crystals are collected by filtration, washed with water and dried, and then recrystallized from ethanol to give 4.28 g of 6-chloro-3,4-dihydro-2,4-dimethyl-2H-1,4-benzoxazine-8-carboxylic acid, melting at 191°14 193° C.

reactant | methyl 6-chloro-3,4-dihydro-2,4-dimethyl-3-oxo-2H-1,4-benzoxazine-8-carboxylate | 5.1 g | ClC=1C=C(C2=C(N(C(C(O2)C)=O)C)C1)C(=O)OC | C12H12ClNO4
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | potassium hydroxide | 50 ml | [OH-].[K+]
solvent | water | 350 ml | O | H2O
product | 6-chloro-3,4-dihydro-2,4-dimethyl-2H-1,4-benzoxazine-8-carboxylic acid | 4.28 g | ClC=1C=C(C2=C(N(CC(O2)C)C)C1)C(=O)O | C11H12ClNO3
